US04284644
5-Aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (0.747 g.) and calcium carbonate (0.47 g.) were suspended in a mixture of carbon tetrachloride (20 ml.) and methylene chloride (5 ml.). The suspension was cooled to -17° C., then bromine (0.22 ml.) was added thereto dropwise, followed by stirring for 45 minutes. The reaction mixture was poured into ice-water, then extracted with ethyl acetate. The extract was washed with water and dried. The solvent was evaporated off, and the residue was recrystallized from ethanol-water. By the above procedure there was obtained 5-amino-4-bromospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one as yellow needles melting at 167°-170° C. Yield 0.6 g.

reactant | 5-Aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 0.747 g | NC1=CC2=C(OC3(CC3)C2=O)C=C1 | C10H9NO2
reactant | calcium carbonate | 0.47 g | C([O-])([O-])=O.[Ca+2]
reactant | bromine | 0.22 ml | BrBr | Br2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-amino-4-bromospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | NC1=C(C2=C(OC3(CC3)C2=O)C=C1)Br | C10H8BrNO2
